US07776857B2
To a mixture of tetrakis(triphenylphosphine)palladium (9 mg, 0.0079 mmol) and sodium methoxide (9 mg, 0.16 mmol) was added a solution of N-(4-(7-bromo-1,5-naphthyridin-4-yloxy)phenyl)-4-phenylphthalazin-1-amine (0.041 g, 0.079 mmol) in DMF (2 mL). The mixture was heated to 100° C. in an Argon purged, resealable tube. After 3 hrs, the solvent was removed in vacuo and the residue was purified by silica gel chromatography using 1-10% MeOH:CH2Cl2 containing 1% NH4OH to afford N-(4-(1,5-naphthyridin-4-yloxy)phenyl)-4-phenylphthalazin-1-amine as a tan solid. MH+=442.1@1.51 min.

reactant | sodium methoxide | 0.16 mmol, 9 mg | C[O-].[Na+]
reactant | N-(4-(7-bromo-1,5-naphthyridin-4-yloxy)phenyl)-4-phenylphthalazin-1-amine | 0.079 mmol, 0.041 g | BrC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C28H18BrN5O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.0079 mmol, 9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(4-(1,5-naphthyridin-4-yloxy)phenyl)-4-phenylphthalazin-1-amine | N1=CC=C(C2=NC=CC=C12)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C28H19N5O
